US08293925B2
MsCl (105 μL, 1.35 mmol) was added to a cooled (0° C.) solution of 1-(2,6-dimethyl-phenyl)-3-hydroxymethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (prepared from step a, 250 mg, 0.9 mmol) and Et3N (375 μL, 2.7 mmol) in THF (5 mL). The resulting reaction mixture was stirred overnight at room temperature. Water (10 mL) was added and extracted with EtOAc (3×25 mL). The combined organic layer was washed with water (50 mL), brine (50 mL), dried (Na2SO4) and evaporated. The obtained crude product 1-(2,6-dimethyl-phenyl)-3-methanesulfonyloxymethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester was used as such for the next step. LC-MS: Rt (retention time): 1.73 min, MS: (ES) m/z 356.3 (M+H+).

reactant | MsCl | 1.35 mmol, 105 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(2,6-dimethyl-phenyl)-3-hydroxymethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)CO | C15H19NO4
reactant | Et3N | 2.7 mmol, 375 μL | CCN(CC)CC | C6H15N
reactant | Water | 10 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(2,6-dimethyl-phenyl)-3-methanesulfonyloxymethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)COS(=O)(=O)C | C16H21NO6S
